US04772600
2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through it, during which time a solution formed. A solution of N,N,N'-trimethylenediamine (3.56 g, 0.0348 mole) in tetrahydrofuran (4.5 ml) was added and the solution was refluxed overnight under a nitrogen atmosphere. The solvents were removed under reduced pressure and the resulting oil was partitioned between water (100 ml) and ethyl acetate (100 ml). The layers were separated, the aqueous layer was re-extracted with ethyl acetate, and the combined organic layers were washed once with water, twice with 5% potassium hydroxide solution and twice with water. The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was recrystallized from isopropyl ether to give 3.5 g of product. A 1.0-g portion was dried at high vacuum overnight to give 0.63 g of title compound, mp 120°-122° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.5 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)CCN(C)C | C19H22ClN5O
